US08835470B2
(R/S)-2-Hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid (Int-V, 20 mg, 0.046 mmol), (1H-indol-2-yl)methanamine (10.17 mg, 0.070 mmol), 4-methylmorpholine (18.76 mg, 0.185 mmol), and HATU (22.92 mg, 0.060 mmol) were added to DMF (1 mL). This was stirred for 1 h before it was purified by prep HPLC (YMC S5 ODS 5u 20×100 mm, gradient elution with Method 1—MeOH/water containing 0.1% trifluoroacetic acid as defined above, 0% B to 100% B over 10 min, 20 mL/min, 220 nM, product retention=12.3 min) to provide (R/S)-N-((1H-indol-2-yl)methyl)-2-hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamide (13 mg, 0.02 mmol, 43.7% yield): LCMS=560.3 [M+H]+; 1H NMR (400 MHz, methanol-d4) δ ppm 8.15-8.20 (2 H, m), 7.55-7.75 (9 H, m), 7.27-7.46 (2 H, m), 6.92-7.08 (2 H, m), 6.29 (1 H, s), 5.20 (1 H, s), 4.48-4.64 (2 H, m); HPLC peak RT=10.7 min (Method A).

reactant | (R/S)-2-Hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid | 0.046 mmol, 20 mg | OC(C(=O)O)C1=CC=C(C=C1)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F | C20H12F3N3O5
reactant | (1H-indol-2-yl)methanamine | 0.070 mmol, 10.17 mg | N1C(=CC2=CC=CC=C12)CN | C9H10N2
reactant | 4-methylmorpholine | 0.185 mmol, 18.76 mg | CN1CCOCC1 | C5H11NO
reactant | HATU | 0.060 mmol, 22.92 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (R/S)-N-((1H-indol-2-yl)methyl)-2-hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamide | 0.02 mmol, 13 mg, 43.7% yield | N1C(=CC2=CC=CC=C12)CNC(C(C1=CC=C(C=C1)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F)O)=O | C29H20F3N5O4
